US06794397B2
2-Chloro-4trifluoromethyl-N-(4methoxy-2-nitrophenyl)-5-pyrimidinecarboxamide
The title compound was prepared from 2-chloro-4-(trifluoromethyl)pyrimidine-5-carbonyl chloride and 4-methoxy-2-nitroaniline and was obtained as a light yellow solid as described in Example 1. 1H NMR (CDCl3): 10.52 (s, 1H), 9.04 (s, 1H), 8.68 (d, J=9.3, 1H), 7.76 (d, J=3.0, 1H), 7.35-7.31 (m, 1H), 3.91 (s, 3H).

reactant | 2-chloro-4-(trifluoromethyl)pyrimidine-5-carbonyl chloride | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | 2-Chloro-4trifluoromethyl-N-(4methoxy-2-nitrophenyl)-5-pyrimidinecarboxamide | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C13H8ClF3N4O4
